US07582773B2
Step 1: Synthesis of [4-(1,3-Dibenzyl-2-methyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester.
The desired product was prepared using a procedure similar to step 1 of example 4. Thus, 4-(1,3-dibenzyl-2-methyl-1H-indol-5-yl)-phenol (0.155 g, 0.384 mmol) was reacted with K2CO3 (0.069 g, 0.499 mmol) and methyl bromoacetate (0.076 g, 0.499 mmol) in acetone (5 ml) to give the product (0.152 g, 0.320 mmol, 83%) as a viscous oil. 1H NMR (DMSO-d6) δ 2.35 (s, 3H), 3.70 (s, 3H), 4.10 (s, 2H), 4.80 (s, 2H), 5.42 (s, 2H), 6.94-7.00 (m, 4H), 7.09-7.13 (m, 1H), 7.20-7.30 (m, 8H), 7.39 (d, J=8.6 Hz, 1H), 7.49 (d, J=8.9 Hz, 2H), 7.58 (d, J=1.7 Hz, 1H); [ESI(+)], m/z 476 (M+H)+.

reactant | 4-(1,3-dibenzyl-2-methyl-1H-indol-5-yl)-phenol | 0.384 mmol, 0.155 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)CC1=CC=CC=C1)C | C29H25NO
reactant | K2CO3 | 0.499 mmol, 0.069 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 0.499 mmol, 0.076 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | [4-(1,3-Dibenzyl-2-methyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)CC1=CC=CC=C1)=O | C32H29NO3
